Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Iodine
 
Attending: ___.
 
Chief Complaint:
Fevers
 
Major Surgical or Invasive Procedure:
Tunneled HD catheter placement by ___ 
 
History of Present Illness:
___ yo imprisoned man with ESRD ___ to PCKD, on dialysis with a 
tunneled catheter in his right arm that was implanted ~90 days 
ago, and on the transplant list presents with fevers from 
100-105 on and off for the past 2 weeks. He was admitted to 
___ on ___ where had a BP of 102/55, HR 93, and a 10% 
bandemia. He was febrile to 105, with rigors, nausea, and 
vomiting. He also complained of chills and diarrhea. He was 
started on abx. He was worked up by renal and ID, who felt that 
the most likely source of this assumed infx was his tunnelled 
cath but in the absence of a definite source it was initially 
not removed. His fever abated, his abx were d/c'd, and he was 
discharged. On ___ he went to dialysis and was found to have 
low grade temp, N/V, was sent to ___ ED and discharged. On 
___ he was found to have a fever of 105 with rigors and he was 
readmitted to ___, where he was started on vanc, then switched 
to zosyn on ___ and had his tunnelled catheter removed. He was 
then transferred to ___ for further work up and management of 
dialysis access.
 
Past Medical History:
1.  Polycystic kidney disease for ___ years.
2.  Hypertension for ___ years.
3.  History of hepatitis C.  Underwent interferon treatment in 
the past.
4.  History of nephrectomy in ___ for stones.
5.  History of bladder stretching in ___ in ___ and ___.
6.  History of parathyroidectomy.
7.  Gout
8.  History of endocarditis, thought to be peritoneal 
dialysis-associated  
9.  History of lumbar osteomyelitis, thought to be peritoneal 
dialysis-associated 
 
Social History:
___
Family History:
mother and three sisters with DM 
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:
VS - Temp 99.2 128/80 79 20 98% RA  
GENERAL - well-appearing man in NAD, comfortable, appropriate  
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple, no thyromegaly, no JVD  
LUNGS - CTA bilat, possible pleural rub auscultated on R, good 
air movement, resp unlabored, no accessory muscle use, possible 
dullness to percussion bilaterally at bases. Pain on palpation 
of midback. 
HEART - PMI non-displaced, RRR, III/VI crescendo-decrescendo 
murmur heard all throughout the precordium that radiated to the 
carotids, nl S1-S2.  
ABDOMEN - NABS, soft/ND, mild tenderness to palaption in left 
lower quadrant, no masses or HSM, no rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (DPs). Mild 
effusion palpated on left knee. Pain on palpation of left knee 
and big toe.  
SKIN - no rashes or lesions   
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout. 
.
PHYSICAL EXAM ON DISCHARGE:
VS - 97.6 Tmax 99 147/87 65 15 100% RA
GENERAL - well appearing, NAD  
HEENT - MMM, no cervical lymphadenopathy
LUNGS - CTAB
CV - RRR, III/VI crescendo-decrescendo murmur heard all 
throughout the precordium that radiated to the carotids. S4 vs 
split s1 present. 
ABDOMEN - NABS, soft, NT/ND, no rebound or guarding  
EXTREMITIES - warm well perfused, no ___ edema, positive pain to 
palpation in L knee, ankle, and big toe. 
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___
 
Pertinent Results:
___ 07:55AM BLOOD WBC-2.8* RBC-2.99* Hgb-9.5* Hct-28.0* 
MCV-94 MCH-31.9 MCHC-34.0 RDW-14.6 Plt ___
___ 07:05AM BLOOD WBC-3.2* RBC-3.03* Hgb-9.5* Hct-28.4* 
MCV-94 MCH-31.2 MCHC-33.3 RDW-14.7 Plt ___
___ 07:55AM BLOOD Neuts-38* Bands-1 ___ Monos-15* 
Eos-5* Baso-0 Atyps-5* ___ Myelos-0
___ 07:05AM BLOOD Glucose-92 UreaN-57* Creat-13.2*# Na-141 
K-4.9 Cl-101 HCO3-25 AnGap-20
.
Microbiology results from ___: Blood cx on ___ grew E. coli 
resistant to ampicillin, cefazolin, ciprofloxacin, and 
levofloxacin. Sensitive to ceftriaxone, ceftazidime, amikacin, 
gentamicin, ertapenem, imipenem, and bactrim 
 
Brief Hospital Course:
ASSESSMENT: ___ yo imprisoned man with ESRD ___ to PCKD, on 
dialysis with a tunneled catheter in his right arm that was 
implanted ~90 days ago, and on the transplant list presents with 
fevers from 100-105, rigors, N/V/D on and off for the past 2 
weeks, s/p tunnelled catheter removal on ___.
.
ACTIVE ISSUES
.
# Fevers, bacteremia: Pt presented with fevers and rigors, N/V/D 
x 2 weeks. He was initially treated with gentamicin and then 
vanc and then zosyn at ___ over this time on multiple 
admissions, as described in the HPI. Blood cultures grew gram 
negative bacilli, later speciated as E coli.  His tunneled 
catheter was thought to be the most likely source and it was 
removed on ___ at ___. He was then transferred to ___ for 
further work-up and new line placement. He was started 
empirically on zosyn and switched to ceftriaxone when speciation 
from ___ returned as E. coli sensitive to ceftriaxone and 
ceftazidime. He does have a significant history of bacteremic 
infections, including lumbar osteomyelitis and bacterial 
endocarditis (unclear which valve, ?aortic) in ___ thought to 
be related to the peritoneal dialysis he was receiving at the 
time. Recurrence of these infections was considered as a 
possibility, especially given the fact that he endorsed lower 
back pain and had a III/VI systolic murmur. But he endorsed that 
his back pain is chronic, his murmur was noted in a transplant 
note from ___, and he had no other endocarditis stigmata, so 
these were thought to be less likely. It also was considered 
whether his painful joints could be infectious, but they were 
not warm, had minimal if any effusions, and he said that these 
joints are this painful at baseline. He was afebrile throughout 
his admission and blood cultures were consistently negative. He 
was switched on the day of discharge to ceftazidime 1g IV to be 
given at dialysis for 2 weeks. He will need follow-up at the 
___ clinic to monitor for signs of recurrent infection.  No 
TTE was obtained, given extremely low suspicion for 
endocarditis, however can consider doing this in the future to 
assess the cause of his prominent systolic murmur.
.
# ESRD: Pt was dialyzed on the day of admission, ___. His 
tunneled catheter was then removed at ___ on ___ and he was 
transferred to ___. Renal was consulted and they recommended 
that ___ place a new tunneled catheter for HD access. This was 
placed on ___ and he dialyzed immediately following placement. 
He is slated to have an eventual brachiobasilic fistula created 
with Dr. ___ the transplant service, who are following him 
longitudinally. He has a follow-up appointment with them 
scheduled for ___. His dialysis is coordinated by the prison on 
a MWF schedule and he will followup with the clinic there for 
his next dialysis session on ___.  Sevelamer was continued but 
at an increased dose.
.
# Joint pains:  Patient presented with L knee, ankle, big toe, 
and low back which have been worse over the past ___ months, but 
he apparently has had them for years. He has been treated for 
gout for years (though rheum at the prison has seen him and 
doubts gout). He attributes these current pains to gout. We were 
unable to attain original documentation of how the gout was 
diagnosed from the prison but he was treated for a flare as 
recently ___ with prednisone, ___, and allopurinol. There 
also was a question for septic arthritis or lumbar osteomyelitis 
given his bacteremia and fevers and PMHx of lumbar 
osteomyelitis, however his exam was not particularly impressive 
and this chronic time course would be unusual. He was maintaned 
on renally-dosed allopurinol (w HD) and his pain was controlled 
with oxycodone 5 mg q4 prn in house (for more reliable nonrenal 
clearance). He will followup with the prison clinic regarding 
the management of chronic joint pain. He was discharged on 
MScontin.
.
CHRONIC ISSUES:
.
# Hepatitis C: He has a history of chronic hep C with prior 
interferon treatment.He is not currently being treated. He 
presented to ___ with a mild transaminitis. It was unclear if 
this was acute from sepsis or evidence of evolving cirrhosis. He 
will follow up with the prison clinic regarding his chronic hep 
C. 
.
# Hypertension: Pt has baseline hypertension controlled with a 
home regimen. He was normotensive throughout his admission. Pt 
was restarted on home regimen but renal recommended stopping 
lisinopril, so it was discontinued on discharge.   
.
# Anemia: This is secondary to chronic renal disease, remained 
stable throughout admission. 
.
TRANSITION ISSUES
.
1. Fevers/bacteremia: Ensure afebrile, continue ceftazidime 
course. Consider ECHO to assess systolic murmur. 
.
2. ESRD: MWF dialysis.
.
3. Mild transaminitis: Consider repeat LFT's to ensure return to 
baseline. 
  
 
Discharge Medications:
1. amitriptyline 25 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
2. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for constipation.  
3. doxercalciferol 2.5 mcg Capsule Sig: Two (2) Capsule PO 
3X/WEEK (___).  
4. metoprolol tartrate 50 mg Tablet Sig: Two (2) Tablet PO BID 
(2 times a day).  
5. ropinirole 1 mg Tablet Sig: 2.5 Tablets PO QPM (once a day 
(in the evening)).  
6. sevelamer carbonate 800 mg Tablet Sig: Three (3) Tablet PO 
TID W/MEALS (3 TIMES A DAY WITH MEALS).  
7. heparin (porcine) 1,000 unit/mL Solution Sig: as dir 1,000 
unit/mL  Injection PRN (as needed) as needed for dialysis: Dwell 
to catheter volume 
.  
8. ceftazidime 1 gram Recon Soln Sig: One (1) Recon Soln 
Injection QHD (each hemodialysis): 8 more doses. LAST DAY of 
therapy,  ___.  
9. diphenhydramine HCl 25 mg Capsule Sig: Two (2) Capsule PO 
every six (6) hours as needed for itching.  
10. MS ___ 30 mg Tablet Extended Release Sig: One (1) Tablet 
Extended Release PO once a day.  
11. allopurinol ___ mg Tablet Sig: One (1) Tablet PO MWF after 
dialysis.  
12. lisinopril 5 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
E. Coli bacteremia
End-stage renal disease
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Mr. ___,

You were transferred to our care to establish new dialysis 
access. You had your tunneled line removed because of an 
infection. You will need antibiotics with dialysis to treat that 
infection

MEDICATION CHANGES:
1. Start ceftazidime to treat infection - given during your 
dialysis runs
2. Increase Sevalemer to 2400 mg with meals
 
Followup Instructions:
___